US03936470
A mixture of 50 parts of [2-(2,4-dichlorophenyl)ethyl]-oxirane, 7 parts of ethanedioic acid, 300 parts of 1,4-dioxane and 150 parts of water is stirred and refluxed for 36 hours. The reaction mixture is evaporated. The residue is crystallized from 2,2'-oxybispropane. The product is filtered off and dried at the air, yielding 1-[2-(2,4-dichlorophenyl)ethyl]ethanediol; mp. 83.2°C.

reactant | [2-(2,4-dichlorophenyl)ethyl]-oxirane | ClC1=C(C=CC(=C1)Cl)CCC1OC1 | C10H10Cl2O
reactant | ethanedioic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 1-[2-(2,4-dichlorophenyl)ethyl]ethanediol | ClC1=C(C=CC(=C1)Cl)CCC(C)(O)O | C10H12Cl2O2
